US08048902B2
Following the procedures described in Example 36: 4-bromo-2-chlorobenzoic acid and oxalyl chloride were reacted to provide 4-bromo-2-chloro-benzoyl chloride, which was reacted with 3-methylamino-but-2-enoic acid methyl ester to provide 2-(4-bromo-2-chloro-benzoyl)-3-[(E)-methylimino]-butyric acid methyl ester. 2-(4-Bromo-2-chloro-benzoyl)-3-[(E)-methylimino]-butyric acid methyl ester and hydroxylamine hydrochloride were then reacted to provide 5-(4-bromo-2-chloro-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester. Following Example 36, Step 4, 5-(4-bromo-2-chloro-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester was hydrolyzed to 5-(4-bromo-2-chloro-phenyl)-3-methyl-isoxazole-4-carboxylic acid. 5-(4-Bromo-2-chloro-phenyl)-3-methyl-isoxazole-4-carboxylic acid and (R)-1-(2-chloro-phenyl)-ethanol were then reacted as described in Example 36, Step 5 to provide [5-(4-bromo-2-chloro-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester.

reactant | 2-(4-Bromo-2-chloro-benzoyl)-3-[(E)-methylimino]-butyric acid methyl ester | COC(C(/C(/C)=N/C)C(C1=C(C=C(C=C1)Br)Cl)=O)=O | C13H13BrClNO3
reactant | hydroxylamine hydrochloride | Cl.NO
product | 5-(4-bromo-2-chloro-phenyl)-3-methyl-isoxazole-4-carboxylic acid methyl ester | COC(=O)C=1C(=NOC1C1=C(C=C(C=C1)Br)Cl)C | C12H9BrClNO3
